US04734419
Ethyl N-(2-carbamoyl-5-chlorophenyl)aminoacetate (357 g) and N,N'-carbonyldiimidazole (451 g) were dissolved in 1,4-dioxane (1.5 l) and 1,4-dioxane was concentrated to a bout 0.5 l by distillation. The resulting mixture was stirred at 150° C. for 30 minutes. After cooling, the precipitated crystals were collected by filtration and washed with ethanol to give ethyl 2-(7-chloro-1,2,3,4-tetrahydro-2,4-dioxoquinazolin-1-yl)acetate (353 g).

reactant | Ethyl N-(2-carbamoyl-5-chlorophenyl)aminoacetate | 357 g | C(N)(=O)C1=C(C=C(C=C1)Cl)NCC(=O)OCC | C11H13ClN2O3
reactant | 1,4-dioxane | 1.5 l | O1CCOCC1 | C4H8O2
product | ethyl 2-(7-chloro-1,2,3,4-tetrahydro-2,4-dioxoquinazolin-1-yl)acetate | 353 g | ClC1=CC=C2C(NC(N(C2=C1)CC(=O)OCC)=O)=O | C12H11ClN2O4
